US06586633B1
Production of 3′-[N-(4-tert-Butylbenzyl)-N-cyclopropylaminomethyl]acetophenone (Compound 82)
3′-(N-cyclopropylaminomethyl)acetophenone (0.30 g; 1.59 mmol) and potassium carbonate (0.31 g; 2.27 mmol) were added to N,N-dimethylformamide (15 ml). While the mixture was stirred at room temperature, 4-tert-butylbenzyl bromide (0.29 g; 1.51 mmol) in N,N-dimethylformamide (5 ml) was added dropwise. The mixture was stirred for 1 hour at room temperature, and the reaction was stopped by pouring the mixture into ice+saturated aqueous sodium bicarbonate solution, followed by extraction with ethyl acetate (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=15:1), to thereby yield 0.20 g of the target compound as colorless transparent oily matter (yield: 39.5%).

reactant | 3′-(N-cyclopropylaminomethyl)acetophenone | 1.59 mmol, 0.30 g | C1(CC1)NCC=1C=C(C=CC1)C(C)=O | C12H15NO
reactant | potassium carbonate | 2.27 mmol, 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-tert-butylbenzyl bromide | 1.51 mmol, 0.29 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3′-[N-(4-tert-Butylbenzyl)-N-cyclopropylaminomethyl]acetophenone | yield: 39.5% | C(C)(C)(C)C1=CC=C(CN(C2CC2)CC=2C=C(C=CC2)C(C)=O)C=C1 | C23H29NO
